US09061030B2
To a solution of 2-(5-bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine (I-16, e.g., about 0.95 g, 2.9 mmol) in N,N-dimethylformamide (e.g., 9.5 mL) is added potassium cyanide (e.g., about 0.928 g, 14.3 mmol). After heating the solution at about 100° C. for about 22 h, the solution is diluted with ethyl acetate (e.g., about 125 mL) and water (e.g., about 100 mL). The layers are separated, and the aqueous layer is extracted with ethyl acetate (e.g., about 2×50 mL). The organics are combined, washed with water (e.g., about 50 mL) and brine (e.g., about 50 mL), dried, e.g., over sodium sulfate or magnesium sulfate, filtered, and the solvent is removed in vacuo to give the crude product, I-33. Purification by silica gel chromatography (0-15% ethyl acetate in dichloromethane) yields 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carbonitrile I-33 (I-33) as a solid.

reactant | 2-(5-bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine | 2.9 mmol, about 0.95 g | BrC1=NC(=NN1CC1=C(C=CC=C1)F)C1=NC=CC=C1 | C14H10BrFN4
reactant | potassium cyanide | 14.3 mmol, about 0.928 g | [C-]#N.[K+]
solvent | N,N-dimethylformamide | 9.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | about 125 mL | C(C)(=O)OCC | C4H8O2
solvent | water | about 100 mL | O | H2O
product | 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carbonitrile | FC1=C(CN2N=C(N=C2C#N)C2=NC=CC=C2)C=CC=C1 | C15H10FN5
